US04766118
Methyl 4-(3,4-dihydro-4-methyl-3-oxo-1,4[2H]-benzothiazin-7-yl)-3-methyl-4-oxobutyrate
4-(3,4-Dihydro-3-oxo-1,4[2H]-benzothiazin-7-yl)-3-methyl-4-oxobutyric acid (1.7 g) was dissolved in 50 ml of dimethylformamide and 0.23 g of 60% sodium hydride was added. After 30 minutes, 0.7 ml of methyl iodide was added and the mixture stirred at room temperature for three hours, then poured into 100 ml of ice water and extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate and evaporated. The residue was chromatographed on a silica gel column eluted with 5% methanol in methylene chloride. The solvent was removed and the oil obtained was used in Example 56.

reactant | 4-(3,4-Dihydro-3-oxo-1,4[2H]-benzothiazin-7-yl)-3-methyl-4-oxobutyric acid | 1.7 g | O=C1CSC2=C(N1)C=CC(=C2)C(C(CC(=O)O)C)=O | C13H13NO4S
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | methyl iodide | 0.7 ml | CI | CH3I
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl 4-(3,4-dihydro-4-methyl-3-oxo-1,4[2H]-benzothiazin-7-yl)-3-methyl-4-oxobutyrate | CN1C(CSC2=C1C=CC(=C2)C(C(CC(=O)OC)C)=O)=O | C15H17NO4S
